US08232406B2
A solution of tert-butyl 3-(trifluoromethylsulfonyloxy)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate (50 mg, 140 μmol, 1.0 eq.) in DME (2 mL) was degassed with nitrogen for 15 minutes. NaHCO3 (1.2 mM solution, 350 μL, 420 μmol, 3 eq.) and 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (56 mg, 140 μmol, 1.0 eq.) were added and degassing was continued for an additional 30 minutes. PdCl2(dppf)2 (10 mg, 14 μmol, 0.1 eq.) was added and degassing was continued for an additional 15 minutes. The reaction was sealed and microwaved at 90° C. for 15 minutes. After cooling, the organic layer was concentrated, NaHCO3 was added, and the product was extracted with EtOAc. Silica gel chromatography (EtOAc/hexanes) provided tert-butyl 3-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate (34 mg, 51% yield); 1H NMR (300 MHz, CDCl3): 8.25 (m, 1H); 7.6-7.25 (m, 3H); 7.07 (s, 1H); 6.4 (br s, 2H); 6.0 (m, 1H); 4.38 (m, 2H); 2.65 (m, 1H); 2.15 (m, 1H); 2.14-1.5 (m, 4H); 1.44 (s, 9H).

reactant | tert-butyl 3-(trifluoromethylsulfonyloxy)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate | 140 μmol, 50 mg, 1.0 eq. | FC(S(=O)(=O)OC=1CC2CCC(C1)N2C(=O)OC(C)(C)C)(F)F | C13H18F3NO5S
reactant | NaHCO3 | 420 μmol, 1.2 mM, 350 μL, 3 eq. | C(=O)(O)[O-].[Na+]
reactant | 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 140 μmol, 56 mg, 1.0 eq. | FC1=C(C=CC=C1F)N1N=NN=C1C=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C18H19BF2N6O2
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf)2 | 14 μmol, 10 mg, 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate | 34 mg, 51% yield | NC1=C(C=C(C=N1)C=1CC2CCC(C1)N2C(=O)OC(C)(C)C)C2=NN=NN2C2=C(C(=CC=C2)F)F | C24H25F2N7O2
